parameters delay2=1.2e-07 delay1=1.2e-07 V_pre_end=-0.09 V_pre=0.15 \
    V_post_min=-0.1 V_post_max=0.1 W_post_min=7e-06 W_post_max=1e-06 \
    W_pre=0.06 slope=0 seed4=7382 seed3=2348 seed2=4819 seed1=8683 PAP0=0 \
    PAP1=1 gl_Temp_var=0 gl_T=300 gl_RV=0 gl_STO=1
ahdl_include "/home/users/daddinos/projet_cmos28fdsoi_12/snn_simulator/src/wang_model.va"

subckt cellPMAMTJ State T1 T2
parameters param1 param2 param3 param4 param5 param6 
    R_0 (State 0) resistor r=1
    R_1 (net0 0) resistor r=1
    R_2 (net1 0) resistor r=1
    I (T1 T2 State net0 net1) Model \ 
	STO      = param1 \	
	RV       = param2 \
	T        = param3 \
    Temp_var = param4 \ 
	PAP      = param5 \ 
	STO_seed = param6
ends cellPMAMTJ

//V2 (down 0) vsource type=pulse val0=0 val1=V_amp width=V_wid 
//V1 (top 0) vsource type=dc dc=0 // T1: pinned layer 


post (top 0) vsource type=pwl delay=delay2 wave=[ 0 0 1p (V_post_min) \
        (W_post_min) (V_post_min) (W_post_min +1p) (V_post_max) \
        (W_post_min + W_post_max) (V_post_max) (W_post_min + W_post_max +1p) 0 ]


pre (down 0) vsource type=pwl wave=[ delay1 0 (delay1+1p) (V_pre - slope) \
        (delay1+W_pre) (V_pre_end + slope) (delay1+W_pre+1p) 0 (2*delay1+W_pre) 0 (2*delay1+W_pre+1p) 30m]

//pre (down 0) vsource type=pwl wave=[ delay1 0 (delay1+50n) (V_pre - slope) \
//        (delay1+W_pre) (V_pre_end + slope) (delay1+W_pre+100p) 0 (delay1+W_pre+150n) 0 (delay1+W_pre+150.1n) 30m]


cell1 (st_mtj1 top down) cellPMAMTJ   param1=gl_STO   param2=gl_RV   param3=gl_T   param4=gl_Temp_var   param5=PAP1   param6 =seed1
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 multithread=on scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 
tran tran stop=1300n start=1n step=3n maxstep=3n minstep=3n \
    annotate=status oppoint=no maxiters=5 
save pre:p down top 
saveOptions options save=allpub
